US05126337
8-Chloro-7-((S)-3-dimethylamino-1-pyrrolidinyl)-6-fluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylic acid
A mixture of 0.44 g of ethyl 8-chloro-7-((S)-3-dimethylamino-1-pyrrolidinyl)-6-fluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate, 0.33 g of 85% potassium hydroxide, 2.0 ml of tert-butanol and 6.0 ml of water was heated at 60° C. for 1 hour with stirring. After cooling, the reaction mixture was neutralized with 10% hydrochloric acid, and evaporated. To the residue, water was added and the residue was extracted with chloroform. The extract was dried and acidified with ethanolic hydrochloride. The solution was evaporated and to the residue was added small amount of methanol. The precipitate was collected by filtration and dissolved with water. The solution was neutralized with 10% aqueous sodium hydroxide and extracted with chloroform. The extract was dried, evaporated and recrystallized from a mixture of chloroform and iso-propanol to give 0.25 g of the desired compound as pale yellow crystals, m.p. 161°-162° C.

reactant | ethyl 8-chloro-7-((S)-3-dimethylamino-1-pyrrolidinyl)-6-fluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | 0.44 g | ClC=1C(=C(C=C2C(C(=C3N(C12)C(S3)C)C(=O)OCC)=O)F)N3C[C@H](CC3)N(C)C | C20H23ClFN3O3S
reactant | potassium hydroxide | 0.33 g | [OH-].[K+]
reactant | tert-butanol | 2.0 ml | C(C)(C)(C)O | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 6.0 ml | O | H2O
product | 8-Chloro-7-((S)-3-dimethylamino-1-pyrrolidinyl)-6-fluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylic acid | 0.25 g | ClC=1C(=C(C=C2C(C(=C3N(C12)C(S3)C)C(=O)O)=O)F)N3C[C@H](CC3)N(C)C | C18H19ClFN3O3S
